US06251925B1
(R)-3′-[[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3-carboxylic acid methyl ester dihydrochloride
A solution of (R)-3′-[[2-[[2-(3-chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]-[1,1′-biphenyl]-3-carboxylic acid methyl ester (275 mg) in 4 N hydrochloric acid in dioxane (10 mL) was stirred for 3 days. Diethyl ether was added and the reaction was stirred for 20 minutes. The title compound was collected by suction filtration as a white solid (210 mg);

reactant | (R)-3′-[[2-[[2-(3-chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]-[1,1′-biphenyl]-3-carboxylic acid methyl ester | 275 mg | COC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)NCCN(C(=O)OC(C)(C)C)C[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=CC=C1)Cl | C35H47ClN2O5Si
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-3′-[[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3-carboxylic acid methyl ester dihydrochloride | Cl.Cl.COC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)NCCNC[C@H](O)C1=CC(=CC=C1)Cl | InChI=1S/C24H25ClN2O3.2ClH/c1-30-24(29)20-8-2-5-17(13-20)18-6-4-10-22(15-18)27-12-11-26-16-23(28)19-7-3-9-21(25)14-19;;/h2-10,13-15,23,26-28H,11-12,16H2,1H3;2*1H/t23-;;/m0../s1
